US04594098
2-(Dimethylphosphinoyl)-2-hydroxy-acetic acid
14.8 g (0.2 mol) of glyoxylic acid hydrate in 80 ml of ethyl acetate are added dropwise to a solution of 15.6 g (0.2 mol) of dimethylphosphine oxide in 80 ml of ethyl acetate. During this addition, the temperature rises slightly. The mixture is stirred at 25° C. for 24 hours and the product is filtered off with suction and washed with a little ethyl acetate to give, after drying, 20.2 g (66.5%) of the desired product of melting point 206°-208°.

reactant | glyoxylic acid hydrate | 0.2 mol, 14.8 g | O.C(C=O)(=O)O
reactant | dimethylphosphine oxide | 0.2 mol, 15.6 g | CP(C)=O | C2H7OP
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 2-(Dimethylphosphinoyl)-2-hydroxy-acetic acid | CP(=O)(C(C(=O)O)O)C | C4H9O4P
